US07411072B2
3-Fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine
Combine 1-fluoro-3-iodo-5-nitrobenzene 2-(3-Fluoro-5-nitro-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (940 mg, 3.5 mmol), 5% palladium on carbon (˜60% H2O, 200 mg), and anhydrous ethanol (25 mL). Purge and fill the reaction vessel with hydrogen three times. Stir the reaction mixture under 1 atm of hydrogen. When the reaction is complete by LCMS, filter the reaction mixture through celite to remove the catalyst and wash the filter cake with ethanol. Strip to dryness and purify the crude product by flash chromatography (25% ethyl acetate/hexanes) and combine product fractions. Strip to dryness to provide the crude product. LCMS (APCI-pos): mass 238.2 (M+1), Purity by LCMS (UV area percent): 85%. 1HNMR (CDCl3, 400 MHz): δ6.88-6.83 (m, 2H), 6.47-6.43 (m, 1H), 3.55-3.9 (bs, 2H), 1.32 (s, 12H)

reactant | 1-fluoro-3-iodo-5-nitrobenzene 2-(3-Fluoro-5-nitro-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 3.5 mmol, 940 mg | FC=1C=C(C=C(C1)[N+](=O)[O-])B1OC(C(O1)(C)C)(C)C.FC1=CC(=CC(=C1)[N+](=O)[O-])I
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 3-Fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine | FC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)N | C12H17BFNO2
